US06054412
3-(4-Chloro-2-fluoro-5-(di(methylsulfonyl))aminophenyl)-1-methyl-4,5-di(trifluoromethyl)-1H-pyrazole (No. lb.027)
1 g (10 mmol) of triethylamine and 0.8 g (6.6 mmol) of methanesulfonyl chloride were added in succession to a solution of 1.2 g (3.3 mmol) of 3-(5-amino-4-chloro-2-fluorophenyl)-1-methyl-4,5-di(trifluoromethyl)-1H-pyrazole in 30 ml of tetrahydrofuran. The reaction mixture was subsequently stirred for 16 hours, whereupon it was concentrated. The residue was treated with water and ethyl acetate. The organic phase which had been separated off was washed with water and saturated aqueous sodium chloride solution, dried over magnesium sulfate and finally concentrated. Yield: quantitative.

reactant | triethylamine | 10 mmol, 1 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 6.6 mmol, 0.8 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | 3-(5-amino-4-chloro-2-fluorophenyl)-1-methyl-4,5-di(trifluoromethyl)-1H-pyrazole | 3.3 mmol, 1.2 g | NC=1C(=CC(=C(C1)C1=NN(C(=C1C(F)(F)F)C(F)(F)F)C)F)Cl | C12H7ClF7N3
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 3-(4-Chloro-2-fluoro-5-(di(methylsulfonyl))aminophenyl)-1-methyl-4,5-di(trifluoromethyl)-1H-pyrazole | Yield: quantitative | ClC1=CC(=C(C=C1N(S(=O)(=O)C)S(=O)(=O)C)C1=NN(C(=C1C(F)(F)F)C(F)(F)F)C)F | C14H11ClF7N3O4S2
